US08445510B2
tert-Butyl 5-bromo-3-[(1S)-1-(2-chloro-6-{[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy}-3-fluorophenyl)ethyl]-1H-pyrrolo[2,3-b]pyridine-1-carboxylate
To a suspension of tert-butyl 5-bromo-3-[(1S)-1-(2-chloro-3-fluoro-6-hydroxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridine-1-carboxylate (84.5 mg, 0.180 mmol) and potassium carbonate (104.5 mg, 0.7561 mmol) in DMF (3 mL), ((4S)-2,2-dimethyl-1,3-dioxolan-4-yl)methyl 4-methylbenzenesulfonate (103.6 mg, 0.3618 mmol) in DMF (2 mL) was added and the reaction mixture was heated to 60° C. for a total of 23 h. EtOAc was added to dilute the reaction mixture and a standard aqueous workup was performed. The combined organic layers were washed with brine, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The crude was adsorbed onto a pre-filled silica gel loading cartridge [RediSepRf 5 gram] and purified using the Teledyne/ISCO system [RediSepRf 12 g Gold Silica], eluting with a 5-20% EtOAc:heptane solvent system. Fractions containing product were combined and concentrated in vacuo. The material obtained was dissolved in MeOH, passed through a syringe filter, and purified a second time by MDP, under acidic conditions (formic acid). Fractions containing product were pooled together and concentrated in vacuo, affording the title material as a clear and colorless film. 1H NMR (400 MHz, CDCl3): δ=8.43 (d, J=2.3 Hz, 1H), 7.53 (s, 1H), 7.53 (s, 1H), 7.02 (dd, J=9.1, 8.3 Hz, 1H), 6.70 (dd, J=9.1, 4.0 Hz, 1H), 4.92 (q, J=7.0 Hz, 1H), 4.31 (quint, J=5.7 Hz, 1H), 3.97 (dd, J=8.3, 6.6 Hz, 1H), 3.91 (dd, J=9.0, 5.9 Hz, 1H), 3.65 (br s, 1H), 3.46 (br s, 1H), 1.76 (d, J=7.1 Hz, 3H), 1.69 (s, 9H), 1.36 (d, J=5.3 Hz, 6H). MS (ES+): m/z 605.30/606.98/608.99 (23/61/9) [MH++Na]. HPLC: tR 4.15 min (ZQ3, nonpolar—5 min).

reactant | tert-butyl 5-bromo-3-[(1S)-1-(2-chloro-3-fluoro-6-hydroxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | 0.180 mmol, 84.5 mg | BrC=1C=C2C(=NC1)N(C=C2[C@H](C)C2=C(C(=CC=C2O)F)Cl)C(=O)OC(C)(C)C | C20H19BrClFN2O3
reactant | potassium carbonate | 0.7561 mmol, 104.5 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ((4S)-2,2-dimethyl-1,3-dioxolan-4-yl)methyl 4-methylbenzenesulfonate | 0.3618 mmol, 103.6 mg | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1OC(OC1)(C)C | C13H18O5S
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | tert-Butyl 5-bromo-3-[(1S)-1-(2-chloro-6-{[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy}-3-fluorophenyl)ethyl]-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | BrC=1C=C2C(=NC1)N(C=C2[C@H](C)C2=C(C(=CC=C2OC[C@H]2OC(OC2)(C)C)F)Cl)C(=O)OC(C)(C)C | C26H29BrClFN2O5
